US06320050B1
A solution of benzotriazol-1-yloxy-tris(dimethylamino)phosphonium hexafluorophosphate (170 mg, 0.38 mmol), 3-cyclopentyl-2-(4-trifluoromethyl-phenyl)-propionic acid (100 mg, 0.34 mmol), and 2-aminopyridine (36 mg, 0.38 mmol) in N,N-dimethylformamide (1.75 mL) was treated with N,N-diisopropylethylamine (0.12 mL, 0.73 mmol). The reaction mixture was stirred at 25° C. for 18 h. At this time, the reaction was poured into water (50 mL) and extracted with ethyl acetate (3×50 mL). The combined organic layers were washed with a 1N aqueous hydrochloric acid solution (1×50 mL), dried over sodium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 90/10 hexanes/ethyl acetate) afforded 3-cyclopentyl-N-pyridin-2-yl-2-(4-trifluoromethyl-phenyl)-propionamide (127 mg, 53.3%) as a white gum: EI-HRMS m/e calcd for C20H21F3N2O (M+) 362.1605, found 362.1592.

reactant | benzotriazol-1-yloxy-tris(dimethylamino)phosphonium hexafluorophosphate | 0.38 mmol, 170 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | 3-cyclopentyl-2-(4-trifluoromethyl-phenyl)-propionic acid | 0.34 mmol, 100 mg | C1(CCCC1)CC(C(=O)O)C1=CC=C(C=C1)C(F)(F)F | C15H17F3O2
reactant | 2-aminopyridine | 0.38 mmol, 36 mg | NC1=NC=CC=C1 | C5H6N2
reactant | N,N-diisopropylethylamine | 0.73 mmol, 0.12 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-dimethylformamide | 1.75 mL | CN(C=O)C | C3H7NO
solvent | water | 50 mL | O | H2O
product | 3-cyclopentyl-N-pyridin-2-yl-2-(4-trifluoromethyl-phenyl)-propionamide | 127 mg, 53.3% | C1(CCCC1)CC(C(=O)NC1=NC=CC=C1)C1=CC=C(C=C1)C(F)(F)F | C20H21F3N2O
